US08975282B2
N-(4-((2-(3-ethylureido)pyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a solution of ethylamine hydrochloride (29 mg, 0.356 mmol) was in NMP (3 mL) was added Et3N (0.1 mL). The solution was stirred at rt for 10 minutes, followed by the addition of phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)pyridin-2-yl)carbamate (100 mg, 0.187 mmol). The reaction was stirred at 40° C. overnight, then concentrated in vacuo at 40° C., and diluted with water (10 mL). The precipitate was collected by filtration, and then purified by a silica gel column chromatography (DCM/EtOAc/MeOH (v/v/v)=80/40/1) to give the title compound as a white solid (46 mg, 50%).

reactant | ethylamine hydrochloride | 0.356 mmol, 29 mg | Cl.C(C)N
reactant | Et3N | 0.1 mL | CCN(CC)CC | C6H15N
reactant | phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)pyridin-2-yl)carbamate | 0.187 mmol, 100 mg | CN1N(C(C(=C1C)C(=O)NC1=CC=C(OC2=CC(=NC=C2)NC(OC2=CC=CC=C2)=O)C=C1)=O)C1=CC=CC=C1 | C30H25N5O5
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | N-(4-((2-(3-ethylureido)pyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 46 mg, 50% | C(C)NC(NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)=O | C26H26N6O4
